US08278442B2
Preparation 81: 5,6-Difluoroindan-2-ylamine
A solution of 6,7-difluoro-3,3a,4,8b-tetrahydroindeno[2,1-d]oxazol-2-one (Preparation 80) (145 mg, 0.69 mmol) and 10% palladium on carbon (15 mg) in EtOH (10 mL) was stirred under H2 for 1 h. The reaction mixture was filtered through celite and the solvent removed in vacuo to give the title compound: δH (CDCl3) 2.66 (2H, dd), 3.15 (2H, dd), 3.86-3.94 (1H, m), 7.00 (2H, t).

reactant | 6,7-difluoro-3,3a,4,8b-tetrahydroindeno[2,1-d]oxazol-2-one | 0.69 mmol, 145 mg | FC=1C=C2CC3NC(OC3C2=CC1F)=O | C10H7F2NO2
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5,6-Difluoroindan-2-ylamine | FC=1C=C2CC(CC2=CC1F)N | C9H9F2N
